US08895535B2
Preparation of 3-hydroxy-2-oxo-1-phenylpyrrolidine-3-carboxylic acid [intermediate for Synthesis Scheme b); route 2]
Thionyl chloride (5.8 g) is added dropwise at 0° C. to a solution of 2-oxo-1-phenylpyrrolidine-3-carboxylic acid (5 g) in 5 ml of ethanol, and the mixture is stirred at 80° C. for 4 h.

reactant | Thionyl chloride | 5.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-oxo-1-phenylpyrrolidine-3-carboxylic acid | 5 g | O=C1N(CCC1C(=O)O)C1=CC=CC=C1 | C11H11NO3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-hydroxy-2-oxo-1-phenylpyrrolidine-3-carboxylic acid | OC1(C(N(CC1)C1=CC=CC=C1)=O)C(=O)O | C11H11NO4
